US04087551
7,7-Dimethyl-1-morpholinonorbornane hydrochloride
A stirred mixture of 1-amino-7,7-dimethylnorbornane (0.7 gm) potassium carbonate (0.77 gm) and 2,2'-dichlorodiethyl ether (3 ml) was heated at 130° for 2 hrs. The reaction mixture was then cooled and partitioned between ether and 2 N hydrochloric acid solution. The aqueous layer was separated basified and extracted into ether. The organic layer was dried, and evaporated. The residue (0.8 gm) after purification by chromatography was dissolved in dry ether and treated with hydrogen chloride to give the title compound (0.33 gm) m.p. 243° to 246°.

reactant | 1-amino-7,7-dimethylnorbornane | 0.7 gm | NC12CCC(CC1)C2(C)C | C9H17N
reactant | 2,2'-dichlorodiethyl ether | 3 ml | C(CCl)OCCCl | C4H8Cl2O
product | 7,7-Dimethyl-1-morpholinonorbornane hydrochloride | 0.33 gm | Cl.CC1(C2CCC1(CC2)N2CCOCC2)C | InChI=1S/C13H23NO.ClH/c1-12(2)11-3-5-13(12,6-4-11)14-7-9-15-10-8-14;/h11H,3-10H2,1-2H3;1H
